US04188381
Preparation of hydrazinium ethyl-phosphite of the general formula:
0.2 mol of hydrazine hydrate is run, whilst stirring, into 0.2 mol of diethyl phosphite. During the addition, the mixture is heterogeneous and its temperature rises to 70° C. Ten minutes after the end of the addition, the mixture becomes homogeneous. The mixture is stirred for two hours, and the alcohol and water are then driven off in vacuo at 80° C. A clear oil remains.

reactant | hydrazine hydrate | 0.2 mol | O.NN
reactant | diethyl phosphite | 0.2 mol | P(OCC)(OCC)[O-]
solvent | water | O | H2O
product | hydrazinium ethyl-phosphite | C(C)OP([O-])[O-].[NH3+]N.[NH3+]N | InChI=1S/C2H5O3P.2H4N2/c1-2-5-6(3)4;2*1-2/h2H2,1H3;2*1-2H2/q-2;;/p+2
